*$
* TLV431
*****************************************************************************
* (C) Copyright 2009 Texas Instruments Incorporated. All rights reserved.  **
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.    **
** TI and its licensors and suppliers make no warranties, either expressed **
** or implied, with respect to this model, including the warranties of     **
** merchantability or fitness for a particular purpose. The model is       **
** provided solely on an "as is" basis. The entire risk as to its quality  **
** and performance is with the customer                                    **   
*****************************************************************************
*
* This model was developed for Texas Instruments Incorporated by:
*   AEi Systems, LLC
*   5933 W. Century Blvd., Suite 1100
*   Los Angeles, California  90045
*
* This model is subject to change without notice. Neither Texas Instruments Incorporated 
* nor AEi Systems is responsible for updating this model.
* For more information regarding modeling services, model libraries and simulation 
* products, please call AEi Systems at (310) 216-1144, or contact AEi Systems by email: 
* info@AENG.com. Or visit AEi Systems on the web at http://www.AENG.com.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: TLV431
* Date: 12/28/2009
* Simulator: TINA-TI 
* Simulator Version: 7.0.80.134 SF
* Datasheet: SLVS139T - July 1996 - Revised June 2007 
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT TLV431 A K Fdbk
V_V2         N59715 A 1.24
G_G4         K A TABLE { V(STAGE2, A) } 
+ ( (-10,0)(0,0)(15m,15m)(10,16m) )
R_R1         A STAGE1  1  
R_R2         A STAGE2  1  
C_C2         A STAGE1  159e-6  
C_C3         A STAGE2  80n  
G_G1         A STAGE1 Fdbk N59715 4
X_D1          A STAGE1 DC_1mV_1A_1V_1nA
G_G3         A STAGE2 STAGE1 A 1
X_D2          STAGE1 N59689 DC_1mV_1A_1V_1nA
X_D3          A K DC_1mV_1A_1V_1nA
V_V1         N59689 A 15m
.ENDS TLV431
*$
.subckt DC_1mV_1A_1V_1nA A C
G1 A C TABLE { V(A, C) } ( (-1,-1n)(0,0)(1m,1) (2m,10) (3m,1000) )
.ends DC_1mV_1A_1V_1nA 
*$